US04278098
PREPARATION OF 2,6,6-TRIMETHYL-α-ISOPROPENYL-1,3-CYCLOHEXADIENE-1-METHANOL
Into a 500 ml reaction flask equipped with immersion thermometer, mechanical stirrer, 250 ml addition funnel, Friedrich's condenser, dry ice/isopropyl alcohol bath and gas bubbler is placed 1.9 grams (44.7 cm length) (0.28 gram atoms) of Li wire (cut up) and 100 ml anhydrous diethyl ether. The lithium wire/diethyl ether mixture is cooled with stirring to -10° C. 15.7 Grams (0.13 moles) of 2-bromo-1-propene (dissolved in approximately 40 ml anhydrous diethyl ether) is added dropwise from the addition funnel into the reaction mixture while maintaining the temperature thereof between -10° C. and -5° C. Following addition of the 2-bromo-1-propene, the reaction mass is stirred for a period of 30 minutes while maintaining the reaction mass at a temperature of 0° C. and is then stirred for 1.5 hours at room temperature (20° C.). The reaction mass is then chilled to -20° C. and 15.0 grams (0.10 moles) of Safranal is added dropwise while maintaining the reaction mass at from -20° up to -15° C. Following the addition of the Safranal, the reaction mass is stirred at -20° C. for a period of 15 minutes and then at room temperature for a period of 2.5 hours. The reaction mass is monitored on GLC at 30 minutes, 90 minutes and 150 minutes, at which point the reaction mass is poured into 300 ml of saturated ammonium chloride (aqueous). The reaction mixture is then added to 200 ml of anhydrous diethyl ether. The reaction mass is then washed with saturated aqueous sodium chloride, dried and concentrated yielding 18.67 grams of crude product. 1.0 Grams of crude product is set aside for silica gel chromatography. The remaining 17.56 grams is vacuum distilled yielding the following fractions:

reactant | dry ice isopropyl alcohol | C(=O)=O.C(C)(C)O
reactant | lithium | [Li] | Li
reactant | 2-bromo-1-propene | 0.13 moles, approximately 40 ml | BrC(=C)C | C3H5Br
reactant | Safranal | 0.10 moles, 15.0 grams | CC1=C(C(CC=C1)(C)C)C=O | C10H14O
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,6,6-TRIMETHYL-α-ISOPROPENYL-1,3-CYCLOHEXADIENE-1-METHANOL | 18.67 grams | CC1=C(C(CC=C1)(C)C)C(O)C(=C)C | C13H20O
